US05057515
A mixture of (±)-trans-2-chloro-6-propyl-5,5a,6,7,8,9,9a,10-octahydropyrido2,3-g]quinoline hydrochloride (2.27 g, 7.50 mmol) and benzylamine hydrobromide (15.0 g) was heated to 240° C. to form a brown, molten semi-solid. After 15 minutes, the molten semi-solid was poured into water, made basic with dilute NaOH solution, and extracted with methylene chloride. The extract was dried (Na2SO4) and concentrated to give a brown oil. Purification by flash chromatography (6% methanol in methylene chloride, NH4OH) provided (±)-trans-2-benzylamino-6-propyl-5,5a, 6,7,8,9,9a,10-octahydropyrido[2,3-g]quinoline (Rf=0.35, 561 mg, 22% yield) as a brown oil.

reactant | quinoline hydrochloride | 7.50 mmol, 2.27 g | Cl.N1=CC=CC2=CC=CC=C12
reactant | benzylamine hydrobromide | 15.0 g | Br.C(C1=CC=CC=C1)N
reactant | NaOH | [OH-].[Na+]
solvent | water | O | H2O
product | (±)-trans-2-benzylamino-6-propyl-5,5a, 6,7,8,9,9a,10-octahydropyrido[2,3-g]quinoline | 561 mg, 22% yield | C(C1=CC=CC=C1)NC=1C=CC2=C(C[C@@H]3CCCN([C@H]3C2)CCC)N1 | C22H29N3
